US07132426B2
In a 25 mL round-bottom flask was place ethanol (4 mL) solution of 5-isopropoxymethyl-pyridine-2-carbonitrile (1 g, 5.7 mmol). A solution of KOH (1.6 g, 28.36 mmol) in ethanol (6 mL) was added. The mixture was refluxed overnight and cooled down to room temperature. The resulted gel like mixture was added H2O and acidified with 6 mL of 10% HCl. The aqueous solution was extracted with EtOAc. The organic extracts were dried and concentrated to give the crude 5-isopropoxymethyl-pyridine-2-carboxylic acid. The crude product was further purified by column chromatography using 20% MeOH/CH2Cl2. 1H NMR (CDCl3, 400 MHz) δ 1.26 (d, 6H), 3.74 (m, 1H), 4.63 (s, 2H), 7.94 (f, 1H), 8.21 (m, 1H), 8.60 (s, 1H). Exact mass calculated for C10H13NO3 195.09, found 196.2 (MH+).

reactant | 5-isopropoxymethyl-pyridine-2-carbonitrile | 5.7 mmol, 1 g | C(C)(C)OCC=1C=CC(=NC1)C#N | C10H12N2O
reactant | KOH | 28.36 mmol, 1.6 g | [OH-].[K+]
reactant | H2O | O | H2O
reactant | HCl | 6 mL | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-isopropoxymethyl-pyridine-2-carboxylic acid | C(C)(C)OCC=1C=CC(=NC1)C(=O)O | C10H13NO3
